US04187216
3.8 g (0.012 mol) of L-alanyl-L-alanine anilide hydrobromide were dissolved in 80 ml of dry pyridine and 3.4 ml (0.024 mol) of propionic anhydride were added. The solution was stirred at room temperature for 2 hours and then evaporated to give a solid. This solid was recrystallised from ethanol and then from methanol to yield 1.9 g (54%) of N-propionyl-L-alanyl-L-alanine anilide of melting point 281°-284° C.; [α]D20 =-101.1° (c=0.995% in acetic acid).

reactant | L-alanyl-L-alanine anilide hydrobromide | 0.012 mol, 3.8 g | Br.N[C@@H](C)C(=O)N[C@@H](C)C(=O)NC1=CC=CC=C1
reactant | propionic anhydride | 0.024 mol, 3.4 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | N-propionyl-L-alanyl-L-alanine anilide | 1.9 g, 54% | C(CC)(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NC1=CC=CC=C1 | C15H21N3O3
